US08664220B2
Step 1: 1-(4′-{4-[Bis-(6-benzyl-pyridin-2-yl)-amino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-benzyl-6-bromo-pyridine.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 2-benzyl-6-bromo-pyridine | C(C1=CC=CC=C1)C1=NC(=CC=C1)Br | C12H10BrN
product | 1-(4′-{4-[Bis-(6-benzyl-pyridin-2-yl)-amino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N(C1=NC(=CC=C1)CC1=CC=CC=C1)C1=NC(=CC=C1)CC1=CC=CC=C1 | C46H40N4O3
